US06995171B2
To a solution of 7-Chloro-thieno[3,2-b]pyridine-2-carbothioic acid methoxymethyl-amide (93.9 g, 344 mmol) and 900 mL THF was added 1 N HCl (344 mL, 344 mmol). The reaction mixture was heated to reflux for seventy-two hours. The reaction mixture was cooled to 0° C., and 300 mL of concentrated NH4OH was added and stirred. The THF was removed under reduced pressure and the residue was suspended in ethyl acetate and stirred. The precipitate was filtered, washed with ethyl acetate and dried to give 7-chloro-thieno[3,2-b]pyridine-2-carbothioic acid amide (66.7 g) in 85% yield. C8H5ClN2S2: APCI m/z: 228.9/230.9 (MH+); 1H NMR (d6-DMSO): δ 10.24 (s, 1H), 9.94 (s, 1H), 8.65 (d, 1H, J=5.0 Hz), 8.19 (s, 1H), 7.62 (d, 1H, J=5.0 Hz) ppm.

reactant | 7-Chloro-thieno[3,2-b]pyridine-2-carbothioic acid methoxymethyl-amide | 344 mmol, 93.9 g | COCNC(=S)C1=CC2=NC=CC(=C2S1)Cl | C10H9ClN2OS2
reactant | HCl | 344 mmol, 1 N, 344 mL | Cl | ClH
reactant | NH4OH | 300 mL | [NH4+].[OH-]
solvent | THF | 900 mL | C1CCOC1 | C4H8O
product | 7-chloro-thieno[3,2-b]pyridine-2-carbothioic acid amide | 66.7 g, 85% yield | ClC1=C2C(=NC=C1)C=C(S2)C(N)=S | C8H5ClN2S2
